US06585914B2
3-(Thien-2-yl)-6-chloropyridazine.
A mixture of tri-n-butylstannylthiophene (6.26 g, 16.78 mmol), 3,6-dichloropyridazine (5.00 g, 33.56 mmol), tetrakis(triphenylphosphine)palladium(0) (0.20 g, 0.17 mmol) and few crystals of 1,2-ditert-butyl of 2,6-di-tert-butyl-4-methylphenolo in dry DMF (50 mL) was deareated twice with nitrogen. The reaction mixture was heated at 80° C. for 6 hours and, after cooling, poured onto water (100 mL). A white precipitate was collected, washed several times with water and dried under vacuum. This solid was taken up with ether (25 mL) and filtered to afford 3.01 g of almost pure product. Finally, this solid was crystallized from MeOH—H2O to give the pure target compound as white crystals (1.56 g, 7.90 mmol, 47.3% yield). Mp 155° C.; 1H NMR (CDCl3) δ 7.75 (1H, d, 2J=11.0), 7.68 (1H, d, 2J=3.6), 7.54 (1H, d, 2J=5.0), 7.51 (1H, d), 7.18 (1H, dd).

reactant | tri-n-butylstannylthiophene | 16.78 mmol, 6.26 g | C(CCC)[Sn](CCCC)(CCCC)C=1SC=CC1
reactant | 3,6-dichloropyridazine | 33.56 mmol, 5.00 g | ClC=1N=NC(=CC1)Cl | C4H2Cl2N2
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.17 mmol, 0.20 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 3-(Thien-2-yl)-6-chloropyridazine | 7.90 mmol, 1.56 g, 47.3% yield | S1C(=CC=C1)C=1N=NC(=CC1)Cl | C8H5ClN2S
